US07557211B2
A1.6: 2,6-Dichloro-4-methylamino-pyridine
An 8M solution of methylamine in ethanol (5 ml; 40 mmol) was added drop wise to a stirred solution of 2,4,6-trichloropyridine (5 g; 27.4 mmol) in absolute ethanol (50 ml). After heating to 55-60° C. for 24 hr, the mixture was cooled to rt and concentrated. After adding water (50 ml) to the residue, the resulting suspension was filtered and the white filter cake was washed with water (3×10 ml). After air drying, the solid was suspended in dichloromethane (25 ml) and stirred for 10 minutes. Filtration, rinsing with dichloromethane and drying afforded 2.45 g (51%) of A1.6 as a white solid. HPLC (A): 95%, ret. time=1.16 min., LC/MS (M+H)+=177.00 (178.99).

reactant | methylamine | CN | CH5N
reactant | 2,4,6-trichloropyridine | 27.4 mmol, 5 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 40 mmol, 5 ml | C(C)O | C2H6O
product | 2,6-Dichloro-4-methylamino-pyridine | ClC1=NC(=CC(=C1)NC)Cl | C6H6Cl2N2
